US04920120
1-Cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A suspension of 4.1 g (13.3 mmol) of ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate in 150 ml of 6N hydrochloric acid was refluxed for six hours, then cooled to room temperature. The solids were filtered, washed with water and ether, and dried to give 3.2 g of the title compound, mp >300° C.

reactant | ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 13.3 mmol, 4.1 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C15H13F2NO3
solvent | hydrochloric acid | 6N, 150 ml | Cl | ClH
product | 1-Cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.2 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
